US06071903
Methyl 4-(4-Methoxybenzenesulfonyl)-1-(4-methylphenylsulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate
To 0.50 g (1.26 mmol) of 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate in 5 ml of pyridine cooled to 0° C. was added 0.284 g (2.59 mmol) of tosyl chloride. The mixture was stirred at 0° C. for 2 hours and then concentrated to remove the solvent. To the residue was added 8 ml of anhydrous ethanol and the mixture refluxed for 2 days. The mixture was concentrated to dryness and ethyl acetate added. The mixture was washed with H2O, 2 N citric acid, brine and dried with Na2SO4. The filtrate was filtered through a thin pad of hydrous magnesium silicate and the filter pad washed with ethyl acetate. The filtrate was concentrated to dryness to give 0.60 g of a foam. Anal. for C25H26N2O7S2 : Calc'd: C,56.6; H,4.9; N,5.3; S,12.1; Found: C,56.2; H,5.2; N,5.2; S,11.4; Mass spectrum (ES) 531.6 (M+H).

reactant | 2-[(2-aminobenzyl)-(4-methoxybenzenesulfonyl)amino]-3-hydroxypropionate | 1.26 mmol, 0.50 g | NC1=C(CN(C(C(=O)[O-])CO)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1
reactant | tosyl chloride | 2.59 mmol, 0.284 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 4-(4-Methoxybenzenesulfonyl)-1-(4-methylphenylsulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 0.60 g | COC1=CC=C(C=C1)S(=O)(=O)N1C(CN(C2=C(C1)C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C)C(=O)OC | C25H26N2O7S2
